US08871766B2
C) 2,4′-bipyridin-3-yl(4-(3,4-difluorobenzyl)-4-hydroxypiperidin-1-yl)methanone
A suspension of 2,4′-bipyridine-3-carboxylic acid dihydrochloride (0.30 g), 4-(3,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride (0.38 g), HATU (0.63 g) and triethylamine (0.77 mL) in DMF (4.0 mL) was stirred at room temperature for 18 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (0.32 g).

reactant | 2,4′-bipyridine-3-carboxylic acid dihydrochloride | 0.30 g | Cl.Cl.N1=C(C(=CC=C1)C(=O)O)C1=CC=NC=C1
reactant | 4-(3,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride | 0.38 g | Cl.FC=1C=C(CC2(CCNCC2)O)C=CC1F
reactant | HATU | 0.63 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.77 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,4′-bipyridin-3-yl(4-(3,4-difluorobenzyl)-4-hydroxypiperidin-1-yl)methanone | 0.32 g | N1=C(C(=CC=C1)C(=O)N1CCC(CC1)(O)CC1=CC(=C(C=C1)F)F)C1=CC=NC=C1 | C23H21F2N3O2
